US07956070B2
Step 1: Methyl 3-(2-tert-butoxy-2-oxoethoxy)-4-chlorobenzoate
Methyl 4-chloro-3-hydroxybenzoate [Chem. Pharm. Bull. 1994, 42(11),2365-9] (0.73 g), caesium carbonate (1.27 g) and tert butylbromoacetate (0.58 mL) in DMF (6 mL) were heated and stirred at 60° C. for 3 h. Water was added and the product was extracted into ethyl acetate. The extracts were dried over sodium sulphate, filtered and the solvent was evaporated. The resulting oil was purified by flash chromatography, using 1:10 ethyl acetate/isohexane as eluent, to yield the subtitle compound as a colourless oil (1.25 g).

reactant | Methyl 4-chloro-3-hydroxybenzoate | 0.73 g | ClC1=C(C=C(C(=O)OC)C=C1)O | C8H7ClO3
reactant | caesium carbonate | 1.27 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert butylbromoacetate | 0.58 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | Water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Methyl 3-(2-tert-butoxy-2-oxoethoxy)-4-chlorobenzoate | 1.25 g | C(C)(C)(C)OC(COC=1C=C(C(=O)OC)C=CC1Cl)=O | C14H17ClO5
